US06657060B2
In analogy to example 12c), by heating (E)-3-[2-(4-hydroxy-6-methyl-pyrimidin-2-yl)-vinyl]-benzoic acid methyl ester (2 g, 7.4 mmol) in POCl3 (13.6 ml, 0.15 mol) at 130° C. for 4.5 h there was obtained (E)-3-[2-(4-chloro-6-methyl-pyrimidin-2-yl)-vinyl]-benzoic acid methyl ester (0.97 g, 45%) as a light-yellow solid. EI mass spectrum, m/e: 288.1 (M calculated for C15H13ClN2O2: 288).

reactant | (E)-3-[2-(4-hydroxy-6-methyl-pyrimidin-2-yl)-vinyl]-benzoic acid methyl ester | 7.4 mmol, 2 g | COC(C1=CC(=CC=C1)\C=C\C1=NC(=CC(=N1)O)C)=O | C15H14N2O3
reactant | POCl3 | 0.15 mol, 13.6 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-3-[2-(4-chloro-6-methyl-pyrimidin-2-yl)-vinyl]-benzoic acid methyl ester | 0.97 g, 45% | COC(C1=CC(=CC=C1)\C=C\C1=NC(=CC(=N1)Cl)C)=O | C15H13ClN2O2
